US07414076B2
Preparation of 3-cyclobutylamino-1-propanesulfonic acid (Compound EC)
A mixture of cyclobutylamine (1.11 g, 15.6 mmol) and 1,3-propane sultone (2 g, 17 mmol) in acetonitrile (18 mL) was heated at reflux. The mixture turned to a lump within 15 minutes. THF (10 mL) was added. The reflux was maintained for 1 hour. The mixture was cooled to room temperature. The solid was collected by filtration, rinsed with acetonitrile (2×4 mL), air-dried for 60 minutes (2.41 g). The solid was suspended in methanol (20 mL) and the suspension was heated at reflux until all the solid material was dissolved. The mixture was then cooled to room temperature. The solid thus formed was collected by suction filtration, rinsed with methanol (2×4 mL), air-dried for 20 minutes, and further dried in a vacuum oven at 40° C. for 18 hours. Compound EC was obtained as a white solid (1.81 g, 60% yield). 1H NMR (500 MHz, D2O) δ 1.70-1.77 (m, 2H), 1.94-2.03 (m, 4H), 2.18 (br s, 2H), 2.85 (t, J=6.8 Hz, 1H), 2.95 (t, J=7.3 Hz, 1H), 3.63-3.66 (m, 1H). 13C NMR (125 MHz, D2O) δ 14.5, 21.5, 26.1, 43.6, 48.0, 51.8. ES-MS 194 (M+1).

reactant | cyclobutylamine | 15.6 mmol, 1.11 g | C1(CCC1)N | C4H9N
reactant | 1,3-propane sultone | 17 mmol, 2 g | C1COS(=O)(=O)C1 | C3H6O3S
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 18 mL | C(C)#N | C2H3N
product | 3-cyclobutylamino-1-propanesulfonic acid | 1.81 g, 60% yield | C1(CCC1)NCCCS(=O)(=O)O | C7H15NO3S
